US04929639
To a mixture of (2R,4R,5S)-4-formyl-5-[(Z)-6-methoxycarbonyl-2-hexenyl]-2-methyl-1,3-dioxane (200 mg) and 2-aminomethylpyridine (0.15 ml) in a mixture of methanol (4 ml) and acetic acid (1 ml) was added sodium cyanoborohydride (100 ml) and the solution was stirred at room temperature overnight. The mixture was neutralized with saturated aqueous sodium hydrogen carbonate and extracted with chloroform. The organic extract was washed with brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was chromatographed on a silica gel column (10 g) with a mixture of chloroform and methanol (30:1) as an eluent to give (2R,4R,5S)-5-[(Z)-6-methoxycarbonyl-2-hexenyl]-2-methyl-4-(2-pyridylmethylaminomethyl)-1,3-dioxane (165 mg).

reactant | (2R,4R,5S)-4-formyl-5-[(Z)-6-methoxycarbonyl-2-hexenyl]-2-methyl-1,3-dioxane | 200 mg | C(=O)[C@@H]1O[C@@H](OC[C@@H]1C\C=C/CCCC(=O)OC)C | C14H22O5
reactant | 2-aminomethylpyridine | 0.15 ml | NCC1=NC=CC=C1 | C6H8N2
reactant | sodium cyanoborohydride | 100 ml | C(#N)[BH3-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 4 ml | CO | CH4O
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | (2R,4R,5S)-5-[(Z)-6-methoxycarbonyl-2-hexenyl]-2-methyl-4-(2-pyridylmethylaminomethyl)-1,3-dioxane | 165 mg | COC(=O)CCC\C=C/C[C@@H]1[C@@H](O[C@@H](OC1)C)CNCC1=NC=CC=C1 | C20H30N2O4
